US08455483B2
b) 3-(2-(tert-Butyldimethylsilyloxy)ethyl)-2-methoxybenzaldehyde
tert-Butyl(2-methoxyphenethoxy)dimethylsilane [Aromatic Intermediate 26, step a] (2.0 g), as a solution in THF (1 mL), was added dropwise over 5 min to a stirred solution of butyllithium (2.5M in hexanes, 4.5 mL) and TMEDA (1.7 mL) in tetrahydrofuran (20 mL) at 0° C. The resulting mixture was stirred for 4 hours, and then DMF (2.9 mL) was added. The mixture was stirred for a further 30 min and allowed to warm to RT. The reaction was poured into aqueous HCl (0.5M, 20 mL) and extracted with ether (2×50 mL). The combined organic solutions were washed with water (50 mL) and brine (50 mL), dried over magnesium sulphate, filtered and evaporated. The resulting gum was purified by silica gel chromatography eluting with isohexane to 4:1 isohexane:ethyl acetate gradient to give the titled compound as a clear oil. Yield 0.40 g.

reactant | tert-Butyl(2-methoxyphenethoxy)dimethylsilane | C(C)(C)(C)[Si](C)(C)OCCC1=C(C=CC=C1)OC | C15H26O2Si
reactant | butyllithium | 2.5M, 4.5 mL | C(CCC)[Li]
reactant | TMEDA | 1.7 mL | CN(C)CCN(C)C | C6H16N2
reactant | HCl | 0.5M, 20 mL | Cl | ClH
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | DMF | 2.9 mL | CN(C)C=O | C3H7NO
product | 3-(2-(tert-Butyldimethylsilyloxy)ethyl)-2-methoxybenzaldehyde | [Si](C)(C)(C(C)(C)C)OCCC=1C(=C(C=O)C=CC1)OC | C16H26O3Si
